US08492048B2
(a) Synthesis of 1,1′-bis(chloromethyl)ferrocene
To a flask containing 1,1′-bis(hydroxymethyl)ferrocene (0.5 g, 2.0 mmol) under an atmosphere of nitrogen, was added THF (30 mL) and pyridine (0.33 mL, 4.1 mmol). PCl3 (0.35 mL, 4.1 mmol) was added dropwise to this solution and a yellow precipitate immediately formed. The mixture was stirred at room temperature for 3 hours. The yellow solution was decanted from the solid using a syringe and the remaining solid was washed with THF (2×15 mL). The washings and original solution were combined and evaporated to dryness. The resulting residue was used immediately in subsequent reactions.

reactant | 1,1′-bis(hydroxymethyl)ferrocene | 2.0 mmol, 0.5 g | OC[C-]1C=CC=C1.[C-]1(C=CC=C1)CO.[Fe+2]
reactant | pyridine | 4.1 mmol, 0.33 mL | N1=CC=CC=C1 | C5H5N
reactant | PCl3 | 4.1 mmol, 0.35 mL | P(Cl)(Cl)Cl | Cl3P
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 1,1′-bis(chloromethyl)ferrocene | ClC[C-]1C=CC=C1.[C-]1(C=CC=C1)CCl.[Fe+2] | InChI=1S/2C6H6Cl.Fe/c2*7-5-6-3-1-2-4-6;/h2*1-4H,5H2;/q2*-1;+2
